US06890923B2
a) 1,2,3,4-Tetrahydro-3-methyl-1-(2-methylpropyl)-2,4-dioxo-6-[[2-(trifluoromethyl)phenyl]methyl]-thieno[2,3-d]pyrimidine-5-propanoic acid, methyl ester
A slurry of 10% palladium on charcoal in ethanol was added to a solution of 3-[1,2,3,4-tetrahydro-3-methyl-1-(2-methylpropyl)-2,4-dioxo-6-[[2-(trifluoromethyl)phenyl]methyl]thieno[2,3-d]pyrimidin-5-yl]-2-propenoic acid, methyl ester, (2.17 g, Example 3 step a)) in ethanol (75 ml) and hydrogenated at 4 bar for 48 hours. The solution was filtered through a glass fibre filter and the filtrate concentrated under reduced pressure. The residue was purified by flash silica chromatography eluting with 1% ethanol in dichloromethane to give the sub-title compound as a white solid (1.27 g).

reactant | 3-[1,2,3,4-tetrahydro-3-methyl-1-(2-methylpropyl)-2,4-dioxo-6-[[2-(trifluoromethyl)phenyl]methyl]thieno[2,3-d]pyrimidin-5-yl]-2-propenoic acid, methyl ester | CN1C(N(C2=C(C1=O)C(=C(S2)CC2=C(C=CC=C2)C(F)(F)F)C=CC(=O)OC)CC(C)C)=O | C23H23F3N2O4S
catalyst | palladium on charcoal | [Pd] | Pd
solvent | ethanol | C(C)O | C2H6O
solvent | ethanol | 75 ml | C(C)O | C2H6O
product | 1,2,3,4-Tetrahydro-3-methyl-1-(2-methylpropyl)-2,4-dioxo-6-[[2-(trifluoromethyl)phenyl]methyl]-thieno[2,3-d]pyrimidine-5-propanoic acid, methyl ester | 1.27 g | CN1C(N(C2=C(C1=O)C(=C(S2)CC2=C(C=CC=C2)C(F)(F)F)CCC(=O)OC)CC(C)C)=O | C23H25F3N2O4S
